US07842713B2
4-(4-(Dimethylcarbamoyl)-3-fluorophenoxy)-2-methyl-N-(5-methylpyridin-2-yl)benzo[b]thiophene-6-carboxamide
Cs2CO3 (0.806 g, 2.47 mmol) was added to a solution of ethyl 4-hydroxy-2-methylbenzo[b]thiophene-6-carboxylate (0.275 g, 1.16 mmol) and 2,4-difluoro-N,N-dimethylbenzamide (0.269 g, 1.45 mmol) in DMF (5 mL). The mixture was stirred at 150° C. for 8 hours and then cooled to room temperature. 2-Amino-5-methylpyridine (0.214 g, 2 mmol) and HATU (0.67 g, 1.75 mmol) were added. The reaction mixture was stirred at 75° C. for four hours and then filtered. Purification by HPLC gave a solid (92 mg, 17% yield) as expected product. 1H NMR (400 MHz, DMSO-d6) δ 10.79 (s, 1 H) 8.52 (s, 1 H) 8.21 (m, 1 H) 8.06-8.08 (d, 1 H) 7.68 (m, 1 H) 7.64-7.67 (m, 1 H) 7.37-7.41 (t, 1 H) 7.12 (s, 1 H) 7.02-7.06 (m, 1 H) 6.87-6.90 (m, 1 H) 2.99 (s, 3 H) 2.87 (s, 3 H) 2.59-2.60 (m, 3 H) 2.28 (s, 1 H). LCMS for C25H22FN3O3S m/z 464.10 (M+H)+.

reactant | Cs2CO3 | 2.47 mmol, 0.806 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethyl 4-hydroxy-2-methylbenzo[b]thiophene-6-carboxylate | 1.16 mmol, 0.275 g | OC1=CC(=CC=2SC(=CC21)C)C(=O)OCC | C12H12O3S
reactant | 2,4-difluoro-N,N-dimethylbenzamide | 1.45 mmol, 0.269 g | FC1=C(C(=O)N(C)C)C=CC(=C1)F | C9H9F2NO
reactant | 2-Amino-5-methylpyridine | 2 mmol, 0.214 g | NC1=NC=C(C=C1)C | C6H8N2
reactant | HATU | 1.75 mmol, 0.67 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-(4-(Dimethylcarbamoyl)-3-fluorophenoxy)-2-methyl-N-(5-methylpyridin-2-yl)benzo[b]thiophene-6-carboxamide | CN(C(=O)C1=C(C=C(OC2=CC(=CC=3SC(=CC32)C)C(=O)NC3=NC=C(C=C3)C)C=C1)F)C | C25H22FN3O3S
